US06310211B1
5,7-Dibromo-8-methoxy-2-(2-phenylethenyl)quinoline (Formula Q-2) Refer to Chart Q
A mixture of 5,7-dibromo-2-methyl-8-methoxyquinoline (10.29 g) and benzaldehyde (15.84 g) is heated at reflux for 18 hrs. Upon cooling to room temperature, a precipitate forms. Methanol is added, and the reaction mixture is sonicated. The solid material is then collected by filtration. Crystallization from hot absolute ethanol yields 10.872 g of the title compound as a yellow solid.

reactant | 5,7-dibromo-2-methyl-8-methoxyquinoline | 10.29 g | BrC1=C2C=CC(=NC2=C(C(=C1)Br)OC)C | C11H9Br2NO
reactant | benzaldehyde | 15.84 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | Methanol | CO | CH4O
product | 5,7-Dibromo-8-methoxy-2-(2-phenylethenyl)quinoline | 10.872 g | BrC1=C2C=CC(=NC2=C(C(=C1)Br)OC)C=CC1=CC=CC=C1 | C18H13Br2NO
